US05955495
Ozone was conducted at -78° into a solution of 4.8 g (25 mmol) of 6-fluoro-2-methyl-7-propyl-benzofuran until the colour became blue. Subsequently, argon was conducted through the solution which was then treated at -78° with 10 ml (136 mmol) of dimethyl sulfide. After warming to room temperature the solution was concentrated in a vacuum and the residue was dissolved in 40 ml of ethanol. After the addition of 20 ml of 3% sodium hydrogen carbonate solution the mixture was stirred at 70° for 30 minutes. Subsequently, the mixture was poured on to 200 ml of ice-water, made acid with 10% HCl and extracted three times with 150 ml of diethyl ether each time. After drying over sodium sulfate concentration was carried out in a vacuum. The crude product obtained was purified by column chromatography on silica gel (dichloromethane). There were obtained 3.3 g (72%) of 4-fluoro-2-hydroxy-3-propyl-benzaldehyde as a pale yellow oil.

reactant | Ozone | O=[O+][O-] | O3
reactant | 6-fluoro-2-methyl-7-propyl-benzofuran | 25 mmol, 4.8 g | FC1=C(C2=C(C=C(O2)C)C=C1)CCC | C12H13FO
reactant | dimethyl sulfide | 136 mmol, 10 ml | CSC | C2H6S
product | 4-fluoro-2-hydroxy-3-propyl-benzaldehyde | 3.3 g, 72% | FC1=C(C(=C(C=O)C=C1)O)CCC | C10H11FO2
